US08247403B2
(3) 4-benzyl-9-bromo-6-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one
To a solution of N-benzyl-3-bromo-2,6-difluoro-N-(2-hydroxyethyl)benzamide (1.50 g, 4.05 mmol) in N,N-dimethylformamide (30 ml) under ice-cooling, 60% sodium hydride (210 mg, 5.27 mmol) was added, and the mixture was stirred for 1 hr under ice-cooling. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the desired product (1.40 g, 98.6%) as an oil.

reactant | N-benzyl-3-bromo-2,6-difluoro-N-(2-hydroxyethyl)benzamide | 4.05 mmol, 1.50 g | C(C1=CC=CC=C1)N(C(C1=C(C(=CC=C1F)Br)F)=O)CCO | C16H14BrF2NO2
reactant | sodium hydride | 5.27 mmol, 210 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-benzyl-9-bromo-6-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 1.40 g, 98.6% | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C(=CC=C2Br)F | C16H13BrFNO2
